US08809369B2
To a stirred mixture solution of 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester (908.0 mg, 2.2 mmol) in methanol (10.0 mL) and tetrahydrofuran (10.0 mL) was added 50% sodium hydroxide in water (2.0 mL). The reaction mixture was stirred at 70° C. for 6 h. The mixture was neutralized with a 3 N aqueous hydrochloric acid solution and extracted with ethyl acetate (100 mL×2), washed with water, dried over anhydrous sodium sulfate and then concentrated in vacuo. Purification by Waters automated flash system (column: Xterra 30 mm×100 mm, sample manager 2767, pump 2525, detector: ZQ mass and UV 2487, solvent system: acetonitrile and 0.1% ammonium hydroxide in water) afforded 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid (770.2 mg, 90%) as a off-yellow solid: MS (ESI) M+1=390.1.

reactant | 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid ethyl ester | 2.2 mmol, 908.0 mg | C(C)OC(=O)C=1C=C2C(CC(NC2=CC1)C1=CC(=CC=C1)C1=NN=NN1C1CC1)(C)C | C24H27N5O2
reactant | sodium hydroxide | [OH-].[Na+]
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | methanol | 10.0 mL | CO | CH4O
solvent | tetrahydrofuran | 10.0 mL | O1CCCC1 | C4H8O
solvent | water | 2.0 mL | O | H2O
product | 2-[3-(1-cyclopropyl-1H-tetrazol-5-yl)-phenyl]-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-6-carboxylic acid | 770.2 mg, 90% | C1(CC1)N1N=NN=C1C=1C=C(C=CC1)C1NC2=CC=C(C=C2C(C1)(C)C)C(=O)O | C22H23N5O2
